* AMP02 SPICE Macro-model                 2/90, Rev. A
*                                          DFB / PMI
*
* Copyright 1990 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*
*              rg1
*              |   inverting input
*              |   |   non-inverting input
*              |   |   |   negative supply
*              |   |   |   |  reference (ground usually)
*              |   |   |   |  |   output
*              |   |   |   |  |   |  positive supply
*              |   |   |   |  |   |  |  rg2                         
*              |   |   |   |  |   |  |  |
.SUBCKT AMP02  207 202 203 50 205 32 99 208
*
*input protection network
*
J201 215 217 202 JX 40
J202 217 217 215 JX 40
J203 218 218 216 JX 40
J204 216 218 203 JX 40 
D201 215 220 DX
D202 219 215 DX
D203 219 216 DX
D204 216 220 DX
V202 219 50 3.6
V203 99 220 3.6
*
*input offset voltage
*
IVOS 215 50 100E-9 
*(this saves a node by using the protection FET's
*as offset voltage generators)
*
*input currents
*
IB1 99 202 97E-9 
*(the latter term is mostly compensation for IVOS)
IB2 203 50 1.8E-9
*
*input stage
*
Q201 210 213 207 50 NX
Q202 211 214 208 50 NX
E203 213 0 215 207 10K
E204 214 0 216 208 10K
I201 207 50 50E-6
I202 208 50 50.04E-6 
*(the 0.04U models the output offset voltage
*and saves yet another node)
*
*differential gain stage and pole
*
R201 251 207 25K
R202 250 208 25K
R203 99 210 20K
R204 99 211 20K
V201 99 212 1
RV201 99 212 1E6
E201 251 32 212 210 1E6
E202 250 32 212 211 1E6
C210 251 210 8E-12
C211 250 211 8E-12
*
*output resistor network
*
R208 32 2 25.002K
*(R208 is  imbalanced to model CMRR)
R207 2 221 24K
R210 251 221 1K
R205 222 3 24K
R211 250 222 1K
R206 3 205 25K
V204 99 223 3
V205 224 50 3
D205 221 223 DX
D206 222 223 DX
D207 224 221 DX
D208 224 222 DX
*
* output amplifier
*
R3 5 50 1K
R4 6 50 1K
I1 99 4 200E-6
J1 5 2 4 JX
J2 6 3 4 JX
C2 5 6 30E-12
*
R5 9 99 180E6
R6 9 50 180E6
C3 9 99 40E-12
C4 9 50 40E-12
G1 99 9 POLY(1) 5 6 4.5M 1.4M
G2 9 50 POLY(1) 6 5 4.5M 1.4M
V2 99 8 2.5
V3 10 50 2.5
D1 9 8 DX
D2 10 9 DX
*
D5 9 28 DX
D6 29 9 DX
*
R26 26 99 111E3
R27 26 50 111E3
R28 27 99 300
R29 27 50 300
L3 27 32 1.1E-6
G17 30 50 9 27 3.333E-3
G18 31 50 27 9 3.333E-3
G19 27 99 99 9 3.333E-3
G20 50 27 9 50 3.333E-3
V6 28 27 2.6
V7 27 29 2.6
D7 99 30 DX
D8 99 31 DX
D9 50 30 DY
D10 50 31 DY
*
* non-linear models
*
.MODEL JX PJF (BETA=20E-6 VTO=-2.0 IS=1E-16)
.MODEL DX D (IS=1E-15)
.MODEL DY D (IS=1E-15 BV=50)
.MODEL NX NPN (IS=1E-16 BF=10000 RE=50)
.ENDS
